US07642264B2
2-Cyclopropyl-6-(4-iodo-imidazol-1-yl)-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared 2-chloro-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)pyridine (example A.33) (1.0 g, 3 mmol) and commercially available 4-iodo-imidazole (0.782 g, 4 mmol) according to the general procedure IVa. Obtained as a yellow solid (1.44 g, 93%). MS (ISP) 456.2 [(M+H)+].

reactant | 2-chloro-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)pyridine | 3 mmol, 1.0 g | ClC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C15H11ClF3N
reactant | 4-iodo-imidazole | 4 mmol, 0.782 g | IC=1N=CNC1 | C3H3IN2
product | 2-Cyclopropyl-6-(4-iodo-imidazol-1-yl)-4-(4-trifluoromethyl-phenyl)-pyridine | C1(CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)N1C=NC(=C1)I | C18H13F3IN3
